US07977358B2
B] [5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carbonyl]-piperidin-4-one
The title compound was prepared analogously to intermediate 15 from 5-cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid and 4-piperidone hydrate. MS: 392.2 (MH+).

reactant | 5-cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)O | C15H13F3N2O2
reactant | 4-piperidone hydrate | O.N1CCC(CC1)=O
product | [5-Cyclopropyl-3-methyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carbonyl]-piperidin-4-one | C1(CC1)C1=C(C(=NN1C1=CC(=CC=C1)C(F)(F)F)C)C(=O)N1CCC(CC1)=O | C20H20F3N3O2
